US04929741
A solution of 8.1 g (39.7 mmol) of methyl 4-hydroxy-4-(4-methylphenyl)-2-butynoate in 100 ml of methylene chloride was added dropwise at 0° to a suspension of 97 g (1.1 mol) of manganese dioxide in 200 ml of methylene chloride. The reaction mixture was stirred at 0° for 30 minutes, filtered over magnesium sulphate and concentrated. Crystallization of the residue from ether/hexane yielded methyl 3-(4-methylbenzoyl)propiolate of melting point 55°-56°.

reactant | methyl 4-hydroxy-4-(4-methylphenyl)-2-butynoate | 39.7 mmol, 8.1 g | OC(C#CC(=O)OC)C1=CC=C(C=C1)C | C12H12O3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 1.1 mol, 97 g | [O-2].[O-2].[Mn+4]
product | methyl 3-(4-methylbenzoyl)propiolate | CC1=CC=C(C(=O)C#CC(=O)OC)C=C1 | C12H10O3
